** sch_path: /foss/designs/work/chipalooza/xschem/TB_tinybgr.sch
**.subckt TB_tinybgr
Vsup ADD5V 0 PAR_VDD5
C3 VREF 0 10f
Viout1 IOUT1 0 1
xbgrtop ADD5V VREF IOUT1 0 sg13cmos5l_srout_tinybgr
**** begin user architecture code

.option savecurrents
.PARAM PAR_VDD5=3.3
.PARAM PAR_VDDRISE=100e-6
.PARAM PAR_POFF=4.5e-3
.PARAM PAR_NOFF=4.5e-3
.OPTION TEMP=27

.control
run
save all

op
write tb_bgr_op.raw
** To find model parameters type display in ngspice prompt
*print @n.xbgrtop.xmn1.nsg13_hv_nmos[ids] @n.xbgrtop.xmn1.nsg13_hv_nmos[gm]
*print @n.xbgrtop.xmp1.nsg13_hv_pmos[ids] @n.xbgrtop.xmp1.nsg13_hv_pmos[gm]
LET gmidmn1=@n.xbgrtop.xmn1.nsg13_hv_nmos[gm]/@n.xbgrtop.xmn1.nsg13_hv_nmos[ids]
LET gmidmp1=@n.xbgrtop.xmp1.nsg13_hv_pmos[gm]/@n.xbgrtop.xmp1.nsg13_hv_pmos[ids]
print gmidmn1 gmidmp1
*print @q.xbgrtop.xq2.qpnpmpa[ie] @q.xbgrtop.xq1.qpnpmpa[ie]
* dc Vref 3.3 1.5 -0.1
DC TEMP -40 125 1
write dc.raw
PLOT V(VREF)
**PLOT I(VIOUT1)
** PLOT @n.xbgrtop.xmnsu1.nsg13_hv_nmos[ids]
**PLOT @n.xbgrtop.xmnsu2.nsg13_hv_nmos[ids]
**PLOT V(xbgrtop.vgsu1)
** Calculating tempco
MEAS DC vrefMAX_m40to125 MAX V(VREF) FROM=-40 TO=125
MEAS DC vrefMIN_m40to125 MIN V(VREF) FROM=-40 TO=125
*MEAS DC vrefMAX_m30to85 MAX V(VREF) FROM=-30 TO=85
*MEAS DC vrefMIN_m30to85 MIN V(VREF) FROM=-30 TO=85
MEAS DC IOUTm40 FIND I(VIOUT1) At=-40
MEAS DC IOUT27 FIND I(VIOUT1) At=27
MEAS DC IOUT125 FIND I(VIOUT1) At=125
MEAS DC VREFm40 FIND V(VREF) AT=-40
MEAS DC VREF27 FIND V(VREF) AT=27
MEAS DC VREF125 FIND V(VREF) AT=125

LET tempco_m40_125_ppmC=1e6*(vrefMAX_m40to125 - vrefMIN_m40to125)/165/1.25
*LET tempco_m30_85_ppmC=1e6*(vrefMAX_m30to85 - vrefMIN_m30to85)/115/1.25
**
PRINT tempco_m40_125_ppmC
*PRINT tempco_m30_85_ppmC

*print IOUT27

.endc




.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_ff
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerPNP.lib typ



**** end user architecture code
**.ends

* expanding   symbol:  sg13cmos5l_srout_tinybgr.sym # of pins=4
** sym_path: /foss/designs/work/chipalooza/xschem/sg13cmos5l_srout_tinybgr.sym
** sch_path: /foss/designs/work/chipalooza/xschem/sg13cmos5l_srout_tinybgr.sch
.subckt sg13cmos5l_srout_tinybgr AVDD VREF IOUT1 AVSS
*.iopin AVDD
*.iopin AVSS
*.opin VREF
*.opin IOUT1
XQ1 AVSS AVSS Vbe1 pnpMPA a=1.4e-12 p=5.4e-06 m=8
XQ2 AVSS AVSS Vbe2 pnpMPA a=1.4e-12 p=5.4e-06
XMN2 Vgn Vgn Vbe2 AVSS sg13_hv_nmos w=2.6u l=1u ng=1 m=6
XMN1 net1 net2 Vbe2mr AVSS sg13_hv_nmos w=2.6u l=1u ng=1 m=12
XMP2 Vgn Vgp AVDD AVDD sg13_hv_pmos w=1u l=4u ng=1 m=3
XMP1 net1 net1 AVDD AVDD sg13_hv_pmos w=1u l=4u ng=1 m=6
XMP3 IOUT1 net1 AVDD AVDD sg13_hv_pmos w=1u l=4u ng=1 m=11
XMP5 VREF Vgp AVDD AVDD sg13_hv_pmos w=1u l=4u ng=1 m=3
V1 net2 Vgn PAR_NOFF
V2 net1 Vgp PAR_POFF
XMNSU1 AVDD vgsu1 Vgn AVSS sg13_hv_nmos w=1u l=2u ng=1
XMPSU1 net3 VREF AVDD AVDD sg13_hv_pmos w=0.35u l=6u ng=1
XMNSU2 vgsu1 VREF AVSS AVSS sg13_hv_nmos w=1u l=1u ng=1
XMPSU2 net4 VREF net3 AVDD sg13_hv_pmos w=0.35u l=6u ng=1
XMPSU3 net5 VREF net4 AVDD sg13_hv_pmos w=0.35u l=6u ng=1
XMPSU4 vgsu1 VREF net6 AVDD sg13_hv_pmos w=0.35u l=6u ng=1
XQ3 AVSS AVSS AVSS pnpMPA a=1.4e-12 p=5.4e-06
xbgrres VREF Vbe2mr AVSS Vbe2 Vbe1 sg13cmos5l_srout_tinybgr_res
.ends


* expanding   symbol:  sg13cmos5l_srout_tinybgr_res.sym # of pins=5
** sym_path: /foss/designs/work/chipalooza/xschem/sg13cmos5l_srout_tinybgr_res.sym
** sch_path: /foss/designs/work/chipalooza/xschem/sg13cmos5l_srout_tinybgr_res.sch
.subckt sg13cmos5l_srout_tinybgr_res Vref Vbe2mr AVSS Vbe2 Vbe1
*.iopin Vbe1
*.iopin Vbe2
*.iopin AVSS
*.iopin Vbe2mr
*.iopin Vref
XR3 Vbe2mr net21 AVSS rhigh w=1.1u l=4u m=1 b=0
XR1 net21 Vbe1 AVSS rhigh w=1.1u l=4u m=1 b=0
XR2 net2 net1 AVSS rhigh w=1.1u l=4u m=1 b=0
XR4 net1 Vbe2 AVSS rhigh w=1.1u l=4u m=1 b=0
XR5 net3 net2 AVSS rhigh w=1.1u l=4u m=1 b=0
XR6 net4 net3 AVSS rhigh w=1.1u l=4u m=1 b=0
XR7 net22 net4 AVSS rhigh w=1.1u l=4u m=1 b=0
XR8 net6 net5 AVSS rhigh w=1.1u l=4u m=1 b=0
XR9 net5 net23 AVSS rhigh w=1.1u l=4u m=1 b=0
XR10 net7 net6 AVSS rhigh w=1.1u l=4u m=1 b=0
XR11 net8 net7 AVSS rhigh w=1.1u l=4u m=1 b=0
XR12 net22 net8 AVSS rhigh w=1.1u l=4u m=1 b=0
XR13 net10 net9 AVSS rhigh w=1.1u l=4u m=1 b=0
XR14 net9 net23 AVSS rhigh w=1.1u l=4u m=1 b=0
XR15 net11 net10 AVSS rhigh w=1.1u l=4u m=1 b=0
XR16 net12 net11 AVSS rhigh w=1.1u l=4u m=1 b=0
XR17 net24 net12 AVSS rhigh w=1.1u l=4u m=1 b=0
XR18 net14 net13 AVSS rhigh w=1.1u l=4u m=1 b=0
XR19 net13 net25 AVSS rhigh w=1.1u l=4u m=1 b=0
XR20 net15 net14 AVSS rhigh w=1.1u l=4u m=1 b=0
XR21 net16 net15 AVSS rhigh w=1.1u l=4u m=1 b=0
XR22 net24 net16 AVSS rhigh w=1.1u l=4u m=1 b=0
XR23 net18 net17 AVSS rhigh w=1.1u l=4u m=1 b=0
XR24 net17 net26 AVSS rhigh w=1.1u l=4u m=1 b=0
XR25 net19 net18 AVSS rhigh w=1.1u l=4u m=1 b=0
XR26 net20 net19 AVSS rhigh w=1.1u l=4u m=1 b=0
XR27 Vref net20 AVSS rhigh w=1.1u l=4u m=1 b=0
XR28 net25 net27 AVSS rhigh w=1.1u l=4u m=1 b=0
XR29 net26 net27 AVSS rhigh w=1.1u l=4u m=1 b=0
.ends

.end
